US08012976B2
Ethyl 2-(4-((dimethylamino)methyl)phenyl)-7-fluoro-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate
A mixture of compound benzaldehyde (75 mg, 0.705 mmol) and (E)-4-(4-((dimethylamino)methyl)benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one (220 mg, 0.705 mmol) in ethyl propionate (5 mL) was cooled to 0° C. Then a solution of sodium ethoxide in ethanol (sodium (65 mg, 2.82 mmol) in ethanol (3 mL)) was added dropwise. After the addition, the mixture was stirred at room temperature for 2.5 hr. The mixture was quenched with water (20 mL) and solvent was removed in vacuum. The residue was dissolved in water and extracted with ethyl acetate for three times. The extract was washed with water and brine and then the solvent was evaporated. The crude product was purified by chromatography to obtain the title compound as a yellow solid (80 mg, yield 25%). LC-MS (ESI) m/z: 447 (M+1)+.

reactant | benzaldehyde | 0.705 mmol, 75 mg | C(C1=CC=CC=C1)=O | C7H6O
reactant | (E)-4-(4-((dimethylamino)methyl)benzylideneamino)-6-fluoroisobenzofuran-1(3H)-one | 0.705 mmol, 220 mg | CN(C)CC1=CC=C(\C=N\C2=C3COC(C3=CC(=C2)F)=O)C=C1 | C18H17FN2O2
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 2.82 mmol, 3 mL, 65 mg | C(C)O | C2H6O
solvent | ethyl propionate | 5 mL | C(CC)(=O)OCC | C5H10O2
product | Ethyl 2-(4-((dimethylamino)methyl)phenyl)-7-fluoro-4-oxo-3-phenyl-1,2,3,4-tetrahydroquinoline-5-carboxylate | 80 mg, yield 25% | CN(C)CC1=CC=C(C=C1)C1NC=2C=C(C=C(C2C(C1C1=CC=CC=C1)=O)C(=O)OCC)F | C27H27FN2O3
